US06833378B2
4-Chloro-6-methyl-2-(2,4,6-trimethyl-phenoxy)-pyridine-3-carbaldehyde
The title compound was prepared by oxidation of 4-chloro-6-methyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-3-yl-methanol with pyridinium chlorochromate in methylene chloride at room temperature. The desired product was isolated after column chromatography to give a green solid (80% yield). 1H NMR(CDCl3) d 10.66(s,1H), 6.91(s,3H), 2.31(s,3H), 2.07(s,3H) ppm.

reactant | 4-chloro-6-methyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-3-yl-methanol | ClC1=C(C(=NC(=C1)C)OC1=C(C=C(C=C1C)C)C)CO | C16H18ClNO2
reactant | pyridinium chlorochromate | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-Chloro-6-methyl-2-(2,4,6-trimethyl-phenoxy)-pyridine-3-carbaldehyde | ClC1=C(C(=NC(=C1)C)OC1=C(C=C(C=C1C)C)C)C=O | C16H16ClNO2
